US08871756B2
N-{[3-(Aminomethyl)thietan-3-yl]methyl}-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine
A flask containing 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (250 mg, 0.67 mmol), thietane-3,3-diyldimethanamine (266 mg, 2.01 mmol), tris(dibenzylideneacetone)dipalladium(0) (61.8 mg, 0.067 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (42 mg, 0.067 mmol), sodium tert-butoxide (160 mg, 1.66 mmol) and toluene (15 mL) was evacuated and then filled with nitrogen (balloon). After being stirred at 110° C. overnight, the resulting mixture was diluted with water (15 mL) and extracted with ethyl acetate (15 mL×4). The combined organic layers were dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography and preparative HPLC to afford 63 mg of the product as a white solid (yield was 20%). MS obsd. (ESI+) [(M+H)+] 469, 1H NMR (400 MHz, CD3OD) δ ppm 7.96-7.94 (m, 1 H), 7.68-7.66 (d, J=7.2 Hz, 1 H), 7.47-7.43 (m, 2 H), 7.31-7.27 (m, 1 H), 7.22-7.21 (d, J=1.6 Hz, 1 H), 7.19 (s, 1 H), 5.88 (s, 1 H), 5.07 (s, 2 H), 4.50 (s, 2 H), 3.55-3.49 (m, 4 H), 3.11 (s, 2 H), 3.06-3.03 (d, J=9.6 Hz, 2 H), 2.94-2.91 (d, J=9.6 Hz, 2 H), 2.31 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | 0.67 mmol, 250 mg | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | thietane-3,3-diyldimethanamine | 2.01 mmol, 266 mg | S1CC(C1)(CN)CN | C5H12N2S
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.067 mmol, 42 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 1.66 mmol, 160 mg | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.067 mmol, 61.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | N-{[3-(Aminomethyl)thietan-3-yl]methyl}-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine | 63 mg, yield was 20% | NCC1(CSC1)CNC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C24H28N4O2S2
